US07517889B2
To a solution of (5-bromo-1H-indol-3-yl)-acetic acid (1 g, 3.94 mmol) in THF (66 mL) at −78 ° C. is added tert-butyl lithium (1.7 M in pentane, 11.6 mL, 19.7 mmol) dropwise and stirred at −78° C. for 30 minutes. at −30° C. for 1 hour. Cooled down to −78° C. again and treated dropwise with triisopropyl borate (4.53 mL, 19.7 mmol). The reaction mixture is allowed to warm to room temperature during 1 hour quenched with 2 N hydrochloric acid. This mixture is extracted with ether. The extract is dried over sodium sulfate and concentrate to obtain an oil which is subjected to silica gel chromatography affording 3-carboxymethyl-1H-indol-5-yl boronic acid (185 mg, 20%) as a solid.

reactant | (5-bromo-1H-indol-3-yl)-acetic acid | 3.94 mmol, 1 g | BrC=1C=C2C(=CNC2=CC1)CC(=O)O | C10H8BrNO2
reactant | tert-butyl lithium | 19.7 mmol, 1.7 M, 11.6 mL | C(C)(C)(C)[Li]
reactant | triisopropyl borate | 19.7 mmol, 4.53 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 66 mL | C1CCOC1 | C4H8O
product | 3-carboxymethyl-1H-indol-5-yl boronic acid | 185 mg, 20% | C(=O)(O)CC1=CNC2=CC=C(C=C12)B(O)O | C10H10BNO4
